US07572808B2
D. 7-(4-chlorophenyl)-2-(4-(methylsufonyl)benzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (16 mg, 0.05 mmol) in DMF (0.25 mL) at room temperature under argon was added K2CO3 (14 mg, 0.1 mmol), followed by 1-(chloromethyl)-4-(methylsulfonyl)benzene (11 mg, 0.0547 mmol). The reaction mixture was stirred at 70° C. for 10 min. After the reaction mixture was cooled to room temperature, water (2 mL) and EtOAc (5 mL) were added. The layers were separated. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure to obtain crude product. This was purified by reverse phase preparative HPLC (without TFA) to isolate 14.5 mg of the title compound as a pale yellow solid. HPLC/MS: retention time=2.27 min, [M+H]+=491.

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.05 mmol, 16 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=NC=C2 | C17H11ClN4O
reactant | K2CO3 | 0.1 mmol, 14 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(chloromethyl)-4-(methylsulfonyl)benzene | 0.0547 mmol, 11 mg | ClCC1=CC=C(C=C1)S(=O)(=O)C | C8H9ClO2S
reactant | water | 2 mL | O | H2O
solvent | DMF | 0.25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
product | 7-(4-chlorophenyl)-2-(4-(methylsufonyl)benzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 14.5 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC2=CC=C(C=C2)S(=O)(=O)C)=O)C2=CC=NC=C2 | C25H19ClN4O3S
